US04079178
(a) Diphenylmethyl 3-Benzoyloxymethyl-7β-(2-methoxyimino-2-phenylacetamido)ceph-3-em-4-carboxylate (syn-isomer) was prepared as a crude orange solid (80%) by Method A. Deprotection by Method F gave:
3-Benzoyloxymethyl-7β-(2-methoxyimino-2-phenylacetamido)-ceph-3-em-4-carboxylic Acid (syn-isomer) as a white powder (48%) [α]D + 46.5° (c 0.9 in DMSO) λmax. (pH 6 phosphate buffer) 232.5 (ε 22,400) and 258.5 nm (ε 21.400) λmax. (Nujol) 1780 (β-lactam), 1720 and 1265 (benzoate), 1705 (CO2H), 1675 and 1532 cm-1 (CONH) τ (DMSO-d6, 100 MHz) 0.16 (doublet, J 8 Hz; NH) 4.06 (double doublet J 5 and 8 Hz; C-7H), 4.70 (doublet; J5 Hz; C-6 H), 6.03 (singlet; NOCH3), and 6.14 and 6.44 [2 doublets (branches of quartet), J 18 Hz; C-2 CH2 ].

reactant | 3-Benzoyloxymethyl-7β-(2-methoxyimino-2-phenylacetamido)-ceph-3-em-4-carboxylic Acid | C(C1=CC=CC=C1)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(C2=CC=CC=C2)=NOC)=O)=O | C24H21N3O7S
reactant | phosphate | pH 6 | P(=O)([O-])([O-])[O-]
reactant | benzoate | C(C1=CC=CC=C1)(=O)[O-]
solvent | DMSO | CS(=O)C | C2H6OS
product | Diphenylmethyl 3-Benzoyloxymethyl-7β-(2-methoxyimino-2-phenylacetamido)ceph-3-em-4-carboxylate | C(C1=CC=CC=C1)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(C2=CC=CC=C2)=NOC)=O)=O | C37H31N3O7S
